US07674788B2
a)+b) 56 μl (0.59 mmol) 4-hydroxytetrahydropyran are dissolved in 2 ml of tetrahydrofuran and under protective gas at −10° C. mixed with 293 μl (0.59 mmol) of a 2 molar solution of lithium diisopropylamine in tetrahydrofuran. The mixture is stirred for 30 minutes at −10° C., then for one hour at ambient temperature. The mixture is cooled to −10° C. again and combined with a suspension of 170 mg (0.59 mmol) 4-azetidin-1-yl-2,6,7-trichloro-pteridine in 5 ml of tetrahydrofuran. The mixture is stirred for one hour at −10° C., slowly allowed to come up to ambient temperature and stirred for approx. another 16 hours. The reaction mixture is mixed with water and extracted with dichloromethane. The organic phase is dried on sodium sulphate and the solvent is eliminated in vacuo. The residue is purified by chromatography (reversed phase). 90 mg of 4-azetidin-1-yl-2,6-dichloro-7-(tetrahydropyran-4-yloxy)-pteridine are obtained, which is dissolved in 5 ml dioxane and slowly added dropwise to a solution of 109 mg (1.27 mmol) piperazine in 5 ml dioxane at a temperature of 80° C. The mixture is stirred for approx. another 1 hour at 80° C., cooled to ambient temperature and the reaction mixture is combined with water. It is extracted with dichloromethane, the organic phase is dried on sodium sulphate and the solvent is eliminated in vacuo. Yield 70 mg (68% of theoretical)

reactant | 4-hydroxytetrahydropyran | 0.59 mmol, 56 μl | OC1CCOCC1 | C5H10O2
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | 4-azetidin-1-yl-2,6,7-trichloro-pteridine | 0.59 mmol, 170 mg | N1(CCC1)C1=NC(=NC2=NC(=C(N=C12)Cl)Cl)Cl | C9H6Cl3N5
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-azetidin-1-yl-2,6-dichloro-7-(tetrahydropyran-4-yloxy)-pteridine | 90 mg | N1(CCC1)C1=NC(=NC2=NC(=C(N=C12)Cl)OC1CCOCC1)Cl | C14H15Cl2N5O2
